US05055464
In 200 ml of methanol is dissolved 10 g of 2-isopropyl 3-trifluoroacetamido-2,3-dihydro-1,5-benzothiazepin-4(5H)-one, whereto 75 ml of a 4 N aqueous solution of sodium hydroxide is added at room temperature. The reaction mixture is poured into ice water 2.5 hours later, and the precipitated organic substance is extracted with chloroform. The chloroform layer is washed with water and dried over magnesium sulfate. Thereafter, the solvent is distilled off under reduced pressure. Isopropyl ether is added to the residue, and the resulting crystals are collected by filtration to give 5.7 g of 3-amino-2-isopropyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one, m.p. 180°-183° C.

reactant | 2-isopropyl 3-trifluoroacetamido-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 10 g | C(C)(C)C1SC2=C(NC(C1NC(C(F)(F)F)=O)=O)C=CC=C2 | C14H15F3N2O2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | 3-amino-2-isopropyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 5.7 g | NC1C(SC2=C(NC1=O)C=CC=C2)C(C)C | C12H16N2OS
